Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
dysphagia
 
Major Surgical or Invasive Procedure:
___
Minimally invasive ___ esophagectomy,
laparoscopic jejunostomy tube placement, and pleural flap
buttress to esophagogastric anastomosis.

 
History of Present Illness:
Mr ___ is a ___ with a h/o  long
segment ___ with HGD and LGD and had planned RFA for
residual areas. His most recent EGD ___ noted patchy areas 
of
esophageal ulceration had path returning with ___ 
esophagus
and areas of HGD, LGD or and no dysplasia between 22 and 40 cm.
He reports reflux if supine, otherwise, denies heartburn,
dysphagia, abd pain, regurgitation, nausea, vomiting. He has had
an 8# unintentional wt loss in 6 months. 

 
Past Medical History:
CABG ___ (cardiol Dr ___ ___
COPD
Bronchiectasis
___
lung nodule (followed by pulm on ___

 
Social History:
___
Family History:
non-contrib

 
Physical Exam:
BP: 123/66. Heart Rate: 66. Weight: 161.5. Height: 70. BMI: 
23.2.
Temperature: 97.0. Resp. Rate: 16. Pain Score: 0. O2 
Saturation%:
100.
      
GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Neck supple/NT/without mass
[x] Trachea midline [x] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA/P     [x] Excursion normal     [x] No fremitus
[x] No egophony    [x] No spine/CVAT
[ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [x] No JVD   [x] PMI nl  [x] No edema
[x] Peripheral pulses nl    [x] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM   [x] No hernia
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] Strength intact/symmetric    [x] Sensation intact/ symmetric
[x] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[x] Cranial nerves intact   [ ] Abnormal findings:

MS     

        
[x] No clubbing   [x] No cyanosis   [x] No edema   [x] Gait nl
[x] No tenderness  [x] Tone/align/ROM nl   [x] Palpation nl
[x] Nails nl   [ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [x] Axillary nl
[x] Inguinal nl   [ ] Abnormal findings:

SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
                    WBC   RBC   Hgb   Hct MCV MCH MCHC  RDW  Plt 
Ct 
___ 06:25    11.0  2.88* 8.9* 26.3* 91 30.8 33.8 15.4 331 

___ 04:16    12.5* 3.17* 9.7* 29.1* 92 30.5 33.2 15.0 291 

___ 04:09    11.0  2.83* 8.7* 25.6* 90 30.8 34.1 15.2 253 

___ 05:27    13.0* 2.93* 9.3* 26.5* 91 31.9 35.3* 14.9 
218 
___ 18:15    10.2  3.09* 9.4* 28.2* 91 30.6 33.5 14.8 184 

___ 06:00    14.7* 2.89* 9.0* 26.5* 91 31.2 34.1 14.8 200 

___ 23:02    14.8* 3.03* 9.2* 27.6* 91 30.5 33.4 15.2 199 

___ 02:32    15.0* 3.12* 9.8* 28.3* 91 31.4 34.7 15.1 202 

___ 03:10    14.7* 3.57* 11.3* 32.0* 90 31.7 35.4* 15.1 
220 

                 Glucose UreaN Creat Na   K   Cl HCO3 AnGap 
___ 06:25    143*1 22*  0.9   139 4.5 ___ 
___ 04:16    ___   140 4.6 ___ 
___ 04:09    ___   141 4.1 ___ 
___ 05:27    ___   141 3.9 ___ 
___ 18:15    ___   140 3.7 ___ 
___ 06:00    115*1 21*  1.2   141 3.8 ___ 
___ 23:02    117*1 22*  1.2   142 4.0 ___ 
___ 02:32    113*1 23*  1.2   140 4.2 ___ 
___ 03:10    121*1 27*  1.5*  138 4.7 ___ 
Source: Line-art 
___ 19:00    150*1 26*  1.5*  140 4.8 106   

Micro:
All Blood, sputum and urine cultures negative

___ Ba swallow :
No evidence of leak.

___ Ba swallow :
No evidence of leak allowing for limitations of the exam.

___ CXR :
In comparison with the study of ___, there is little 
overall change. 
Continued postsurgical changes at the right base with left 
basilar 
opacification consistent with pleural fluid and underlying 
atelectasis. No evidence of pneumothorax. 

___ Cardiac echo :
Biatrial enlargement. Normal left ventricular wall thickness, 
chamber size and global systolic function. Mild regional 
systolic dysfunction c/w CAD (Diagonal or Obtuse marginal). Mild 
mitral regurgitation. Mildly dilated aortic sinus.

 
Brief Hospital Course:
Mr. ___ was admitted to the hospital and taken to the 
Operating Room where he underwent a minimally invasive ___ 
___ esophagectomy, laparoscopic jejunostomy tube placement, 
and pleural flap buttress to esophagogastric anastomosis. He 
tolerated the procedure well and returned to the PACU in stable 
condition.  He was fluid resuscitated over the next ___ hours and 
had stable hemodynamics. J tube feedings were started via his J 
tube on post op day #1 tolerated well.  They were gradually 
advanced daily to reach his goal.

Following transfer to the Surgical floor on ___ he 
developed a temperature of 102 and was pan cultured.  His chest 
xray showed bibasilar atelectesis and he also had a barium 
swallow done which ruled out an esophageal leak.  His chest tube 
was removed but he maintained NPO status and his temperature was 
up and down over the next day.  He was using his incentive 
spirometer effectively and was deep breathing and coughing well. 
His WBC peaked to 13K.  He remained off antibiotics and his 
wounds were healing well.

Around the same time as his temperature spike he also developed 
rapid atrial fibrillation to 150 associated with concurrent 
hypotension with SBP in the high ___, though mentating and no 
acute distress.  He was given a total of IV metoprolol 20mg 
without change in HR and then given amiodarone 150mg IV bolus 
x1. He denied chest pain, palpitations and dyspnea.  He reported 
having no history of afib and not been on anticoagulation 
previously. He was transferred back to the SICU for treatment of 
his atrial fibrillation on an Amiodarone drip as well as IV 
Diltiazem. He eventually converted to NRS in the ___.  His 
Amiodarone was stopped on ___ and his Diltiazem was 
converted to oral. He had a troponin bump to a high of 3.04 
during his RAF but the cardiology service thought it was from 
demand ischemia.  His TTE revealed a normal LV with mild 
anterior hypokinesis.  Anticoagulation was recommended as wellas 
a Persantine stress test  as an out patient.  he was started on 
Rivaroxiban on ___ and hopefully will be on it for a short 
time as he continues to maintain NSR.

He was transferred back to the Surgical floor on ___ and 
continued to progress well.  A second barium swallow on ___ 
revealed no leak and he began a liquid diet along with oral 
madications which he tolerated well.  His J tube feedings 
continued with Osmolyte 1.5 cycled at 80 cc's/hr over 18 hrs.  
His JP drain was removed following the barium swallow and his 
other wounds were healing well.  Both he and his wife were 
instructed in the care and use of the J tube and ___ will also 
be involved once he gets home for more teaching and 
reinforcement. He was using his incentive spirometer effectively 
and his room air saturations were 94% with activity.  He did 
have some difficulty expectorating his secretions and 
guaifenacin was prescribed.

On ___ he was discharged home with ___ services and will 
follow up with Dr. ___ Cardiology in a few weeks.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. fenofibrate micronized 200 mg oral DAILY 
4. Rosuvastatin Calcium 20 mg PO QPM 
5. Omeprazole 40 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Nutrition
Osmolyte 1.5 via J tube at 80 cc's/hr cycled over 18 hrs ( 6 
cans/day)
Flush with 30 cc's tap water 3 times a day, prior to starting 
feedings, when ending feedings and every day at noon.
Dispense 1 month suppy
Refills #6   Dx esophageal cancer
2. Rosuvastatin Calcium 20 mg PO QPM 
3. Diltiazem Extended-Release 120 mg PO DAILY 
RX *diltiazem HCl 120 mg 1 capsule(s) by mouth once a day Disp 
#*30 Capsule Refills:*2
4. Rivaroxaban 20 mg PO DINNER 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*1
5. Aspirin 81 mg PO DAILY 
6. fenofibrate micronized 200 mg ORAL DAILY 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*2
9. Docusate Sodium (Liquid) 100 mg PO BID 
RX *docusate sodium 50 mg/5 mL 10 mls by mouth twice a day 
Refills:*0
10. Milk of Magnesia 30 mL PO Q12H:PRN constipation 
11. Guaifenesin 10 mL PO TID 
RX *guaifenesin 100 mg/5 mL 10 liquid(s) by mouth three times a 
day Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
___ esophagus.
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call Dr. ___ ___ if you experience:
-Fevers greater than 101 or chills
-Increased shortness of breath, cough or chest pain
-Nausea, vomiting 
-Increased abdominal pain
-Drainage or redness from your incisions

Medication
-See medication discharge sheet
-NO CRUSHED MEDICATIONS via J tube.  You may use elixir form if 
available followed by flushing with 30 cc's tap water. If 
possible,  take all of your medications by mouth
-Roxicet liquid via J tube or orally if you prefer
-Take stool softners while you are on narcotics to prevent 
constipation narcotics
- The Cardiologist would like you to be on a blood thinner for 
the next month or so called Rivaroxiban which you will need to 
take daily around 5pm.  You will not need any blood work done to 
check levels but call Dr. ___ if you have any unusual bleeding. Be 
careful not to cut youself shaving or using sharp objects and be 
careul not to fall.

Activity
-Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
-No tub bathing, swimming or hot tub until incision healed
-No driving while taking narcotics
-No lifting greater than 10 pounds until seen in follow up
-Walk ___ times a day for ___ minutes increase to a Goal of 30 
minutes daily as tolerated

Diet:

J Tube feeds: Osmo;ite 1.5 cycled over 18 hrs at 80 cc's/hr.

Flush J-tube every 8 hours with 30 cc's of water, before and 
after starting tube feeds and every day at noon.

Full liquid diet, may increase to soft solids over the next few 
days as tolerated.
Eat small frequent meals. Sit up in chair for all meals and 
remain sitting for ___ minutes after meals

Daily weights: keep a log of weights and oral intake and bring 
it with you to your appointment so that your caloric intake can 
be assessed.

NO CARBONATED DRINKS

 
 
 

 
Followup Instructions:
___